data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
743,805,[CH3:14][NH:15][C:16](=[O:17])[C:18](=[NH+:19][O-:20])[C:21]([CH3:22])=[O:23].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[CH:9]2[CH:10]=[CH:11][CH:12]1[O:13]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[CH:9]2[CH:10]3[CH:11]([CH:12]1[O:13]2)[O:20][NH:19][C:18]3([C:16]([NH:15][CH3:14])=[O:17])[C:21]([CH3:22])=[O:23],water,298.15,22.13053239328405,-19.159697097322763
4602,5248,[CH3:10][O:11][C:12](=[O:13])[CH:14]=[N+:15]([CH3:16])[C-:17]([CH3:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:17]([CH3:18])([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[N:15]([CH3:16])[CH:14]1[C:12]([O:11][CH3:10])=[O:13],water,298.15,23.404160886854715,-14.552880098304492
4147,4749,[CH3:6][C:7]([c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1)=[N+:14]([CH3:15])[CH-:16][c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[NH2+:1]=[C:2]([NH2:3])[NH:4][CH3:5]>>[NH2+:1]1[C:2]([NH2:3])([NH:4][CH3:5])[C:7]([CH3:6])([c:8]2[cH:9][cH:10][cH:11][cH:12][cH:13]2)[N:14]([CH3:15])[CH:16]1[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,32.3555234310075,11.363837630234292
3455,3934,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][C:8](=[O:9])[N-:10][NH+:11]=[N:12][c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[N:10]([C:8]([CH3:7])=[O:9])[NH:11][N:12]1[c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1,water,298.15,33.7238033393929,-4.919423658533785
1072,1169,[CH3:13][O:14][C:15](=[O:16])[C:17]#[N+:18][C-:19]([CH3:20])[C:21]([CH3:22])=[O:23].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([Cl:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:17]([C:15]([O:14][CH3:13])=[O:16])=[N:18][C:19]2([CH3:20])[C:21]([CH3:22])=[O:23],water,298.15,15.082166662999356,-32.986588482024715
825,894,[CH3:14][C:15]#[N+:16][CH-:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1.[F:1][C:2]([F:3])([F:4])[C:5]1([F:6])[C:7]#[C:8][CH2:9][CH2:10][CH2:11][CH2:12][CH2:13]1>>[F:1][C:2]([F:3])([F:4])[C:5]1([F:6])[C:7]2=[C:8]([CH2:9][CH2:10][CH2:11][CH2:12][CH2:13]1)[CH:17]([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[N:16]=[C:15]2[CH3:14],water,298.15,9.249455197574132,-76.18522263641863
4529,5169,[C:11](#[N+:12][CH-:13][c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1.[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10]>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[CH:13]([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[N:12]=[C:11]2[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,16.575120132671245,-42.669711812720735
3533,4031,[CH3:10][C:11]#[N+:12][N-:13][c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[N:13]([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[N:12]=[C:11]1[CH3:10],water,298.15,21.00837967574961,-29.12202293675755
3830,4384,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][O:6][C:7](=[O:8])[C:9](=[O+:10][C-:11]([C:12]#[N:13])[C:14]#[N:15])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:11]([C:12]#[N:13])([C:14]#[N:15])[O:10][C:9]1([C:7]([O:6][CH3:5])=[O:8])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1,water,298.15,9.309074301914134,-41.364746160010455
2155,2390,[CH3:13][NH:14][C:15](=[O:16])[C-:17]([N+:18]#[C:19][C:20](=[O:21])[O:22][CH3:23])[C:24](=[O:25])[NH:26][CH3:27].[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([Br:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[F:1][C:2]([F:3])([F:4])[C:5]12[C:6]([Br:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:17]([C:15]([NH:14][CH3:13])=[O:16])([C:24](=[O:25])[NH:26][CH3:27])[N:18]=[C:19]2[C:20](=[O:21])[O:22][CH3:23],water,298.15,27.675362326330728,-31.33617191984361
1752,1940,[CH3:12][C:13](=[O:14])[CH:15]=[N+:16]([CH3:17])[C-:18]([CH3:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1.[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Br:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([Br:6])([CH:7]3[CH:8]=[CH:9][CH:10]1[O:11]3)[CH:15]([C:13]([CH3:12])=[O:14])[N:16]([CH3:17])[C:18]2([CH3:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,14.542232465071262,-19.787799060606385
4028,4613,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][C:8](=[O:9])[C-:10]([c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1)[N+:17]([CH3:18])=[C:19]([CH3:20])[CH3:21]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:19]([CH3:20])([CH3:21])[N:17]([CH3:18])[C:10]1([C:8]([CH3:7])=[O:9])[c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1,water,298.15,44.65415724122656,3.3932831234623886
